US04940710
7-[3-[(Dodecyloxy)methyl]-1-piperazinyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A 710 mg portion of 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid was suspended in 5 ml of pyridine and 2 g of 2-[(dodecyloxy)methyl]piperazine added. This mixture was heated at 80°-85° C. for 4 hours, then cooled and diluted with ether. The solid was collected, washed with ether and dried, giving 1.3 g of the desired product, mp 125°-127° C.

reactant | 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | C(C)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C12H9F2NO3
reactant | 2-[(dodecyloxy)methyl]piperazine | 2 g | C(CCCCCCCCCCC)OCC1NCCNC1 | C17H36N2O
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | ether | CCOCC | C4H10O
product | 7-[3-[(Dodecyloxy)methyl]-1-piperazinyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 1.3 g | C(CCCCCCCCCCC)OCC1CN(CCN1)C1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)O)=O)F | C29H44FN3O4
